US06586441B2
(RS)-2-Amino-4-furan-2-yl-6-[(1-methyl-1,2,3,4-tetrahydro-quinolin-2-ylmethyl)-amino]-pyrimidine-5-carbonitrile
From 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile, 2-(aminomethyl)-1,2,3,4-tetrahydro-1-methyl-quinoline hydrochloride and DBU in DME. ES-MS m/e (%): 361 (M+H+, 100).

reactant | 2-amino-4-furan-2-yl-6-methanesulfinyl-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)S(=O)C | C10H8N4O2S
reactant | 2-(aminomethyl)-1,2,3,4-tetrahydro-1-methyl-quinoline hydrochloride | Cl.NCC1N(C2=CC=CC=C2CC1)C
reactant | DBU | C1CCC2=NCCCN2CC1 | C9H16N2
solvent | DME | COCCOC | C4H10O2
product | (RS)-2-Amino-4-furan-2-yl-6-[(1-methyl-1,2,3,4-tetrahydro-quinolin-2-ylmethyl)-amino]-pyrimidine-5-carbonitrile | NC1=NC(=C(C(=N1)C=1OC=CC1)C#N)NCC1N(C2=CC=CC=C2CC1)C | C20H20N6O
